US07807690B2
1H-NMR (CDCl3) δ 1.46(s, 9H) 4.61(d, J=6.2 Hz, 2H) 5.22(br.s, 1H) 7.85(d, J=8.7 Hz, 1H) 8.23(dd, J=8.7, 2.0 Hz, 1H) 8.37(d, J=2.0 Hz, 1H) (1g)(5-Amino-2-cyanobenzyl)carbamic acid t-butyl ester
To a mixture of (2-cyano-5-nitrobenzyl)carbamic acid t-butyl ester (2.39 g) and ethanol (180 mL) there were added water (12 mL), saturated aqueous ammonium chloride (5 mL) and iron powder (2.02 g), under a nitrogen atmosphere. The mixture was heated to reflux for 2 hours and then filtered through Celite to obtain a filtrate, and the solvent in the filtrate was distilled off under reduced pressure to obtain a residue. The Celite and filtered substance were washed with ethyl acetate (400 mL) and water (200 mL) in that order, and this washed solution was combined with the previous residue. After sufficiently shaking the mixture, the organic layer was separated off and the organic layer was dried over anhydrous magnesium sulfate. The mixture was filtered to obtain a filtrate, and the solvent in the filtrate was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane mixture) to obtain the target compound (1.97 g) as an off-white solid.

reactant | (2-cyano-5-nitrobenzyl)carbamic acid t-butyl ester | 2.39 g | C(C)(C)(C)OC(NCC1=C(C=CC(=C1)[N+](=O)[O-])C#N)=O | C13H15N3O4
reactant | ethanol | 180 mL | C(C)O | C2H6O
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
catalyst | iron | 2.02 g | [Fe] | Fe
solvent | water | 12 mL | O | H2O
product | (5-Amino-2-cyanobenzyl)carbamic acid t-butyl ester | 1.97 g | C(C)(C)(C)OC(NCC1=C(C=CC(=C1)N)C#N)=O | C13H17N3O2
